### PR TITLE
feat(WithZeroTopology): `locallyCompactSpace_iff_locallyFiniteOrder_units`

### PR DESCRIPTION
**Pull request by pechersky**
On the way to golf/generalize the proof that
locally compact valued fields have locally finite valuation groups as embodied in
`Valued.integer.locallyFiniteOrder_units_mrange_of_isCompact_integer` ]

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Compactness/Compact.lean [hunk 1]
```diff
@@ -795,6 +795,11 @@ instance : NoncompactSpace ℤ :=
 theorem finite_of_compact_of_discrete [CompactSpace X] [DiscreteTopology X] : Finite X :=
   Finite.of_finite_univ <| isCompact_univ.finite_of_discrete
 
+instance DiscreteTopology.instLocallyCompactSpace [DiscreteTopology X] : LocallyCompactSpace X where
+  local_compact_nhds x s hs := by
+    use {x}
+    simpa using hs
```
Comment (kckennylau) [inline Mathlib/Topology/Compactness/Compact.lean]:
```suggestion
  local_compact_nhds x s hs := ⟨{x}, by simpa using hs⟩
```

File: Mathlib/Topology/Compactness/Compact.lean [hunk 2]
```diff
@@ -795,6 +795,11 @@ instance : NoncompactSpace ℤ :=
 theorem finite_of_compact_of_discrete [CompactSpace X] [DiscreteTopology X] : Finite X :=
   Finite.of_finite_univ <| isCompact_univ.finite_of_discrete
 
+instance DiscreteTopology.instLocallyCompactSpace [DiscreteTopology X] : LocallyCompactSpace X where
```
Comment (kckennylau) [inline Mathlib/Topology/Compactness/Compact.lean]: Maybe this should be low priority?

File: Mathlib/Topology/Algebra/GroupWithZero.lean [hunk 3]
```diff
@@ -156,6 +156,14 @@ lemma tendsto_inv_iff₀ {l : Filter α} {f : α → G₀} (hx : x ≠ 0) :
     Tendsto (fun x ↦ (f x)⁻¹) l (𝓝 x⁻¹) ↔ Tendsto f l (𝓝 x) := by
   simp only [nhds_inv₀ hx, ← Filter.comap_inv, tendsto_comap_iff, Function.comp_def, inv_inv]
 
+theorem IsCompact.inv₀ {s : Set G₀} (hs : IsCompact s) (hs' : 0 ∉ s) : IsCompact s⁻¹ := by
+  rw [← Set.image_inv_eq_inv]
+  refine hs.image_of_continuousOn ?_
+  refine continuousOn_of_forall_continuousAt ?_
+  intro x hx
+  refine continuousAt_inv₀ ?_
+  grind
```
Comment (kckennylau) [inline Mathlib/Topology/Algebra/GroupWithZero.lean]:
```suggestion
theorem IsCompact.inv₀ {s : Set G₀} (hs : IsCompact s) (hs' : 0 ∉ s) : IsCompact s⁻¹ :=
  s.image_inv_eq_inv ▸ hs.image_of_continuousOn <| continuousOn_inv₀.mono <| by grind
```

File: Mathlib/Topology/Algebra/WithZeroTopology.lean [hunk 4]
```diff
@@ -129,6 +131,8 @@ theorem isClosed_iff {s : Set Γ₀} : IsClosed s ↔ (0 : Γ₀) ∈ s ∨ ∃
 theorem isOpen_Iio {a : Γ₀} : IsOpen (Iio a) :=
   isOpen_iff.mpr <| imp_iff_not_or.mp fun ha => ⟨a, ne_of_gt ha, Subset.rfl⟩
 
+lemma isOpen_singleton (h : γ ≠ 0) : IsOpen {γ} := by simp [isOpen_iff, h.symm]
```
Comment (kckennylau) [inline Mathlib/Topology/Algebra/WithZeroTopology.lean]:
```suggestion
lemma isOpen_singleton (h : γ ≠ 0) : IsOpen {γ} := isOpen_singleton_nhdsAdjoint _ h
```

File: Mathlib/Topology/Algebra/WithZeroTopology.lean [hunk 5]
```diff
@@ -183,4 +187,145 @@ scoped instance (priority := 100) : HasContinuousInv₀ Γ₀ :=
     rw [ContinuousAt, nhds_of_ne_zero h]
     exact pure_le_nhds γ⁻¹⟩
 
+scoped instance : DiscreteTopology Γ₀ˣ := by
+  simp [discreteTopology_iff_singleton_mem_nhds, nhds_induced, nhds_prod_eq, Units.val_inj]
```
Comment (kckennylau) [inline Mathlib/Topology/Algebra/WithZeroTopology.lean]:
```suggestion
instance : DiscreteTopology { g : Γ₀ // g ≠ 0 } := by
  simpa [discreteTopology_iff_singleton_mem_nhds, nhds_induced] using by aesop

instance : DiscreteTopology Γ₀ˣ :=
  unitsHomeomorphNeZero.symm.discreteTopology
```

File: Mathlib/Topology/Algebra/WithZeroTopology.lean [hunk 6]
```diff
@@ -183,4 +187,145 @@ scoped instance (priority := 100) : HasContinuousInv₀ Γ₀ :=
     rw [ContinuousAt, nhds_of_ne_zero h]
     exact pure_le_nhds γ⁻¹⟩
 
+scoped instance : DiscreteTopology Γ₀ˣ := by
```
Comment (kckennylau) [inline Mathlib/Topology/Algebra/WithZeroTopology.lean]: I thought `scoped` is unnecessary because the topology instance is already scoped?

File: Mathlib/Topology/Algebra/WithZeroTopology.lean [hunk 7]
```diff
@@ -183,4 +187,145 @@ scoped instance (priority := 100) : HasContinuousInv₀ Γ₀ :=
...
+  simp [discreteTopology_iff_singleton_mem_nhds, nhds_induced, nhds_prod_eq, Units.val_inj]
+
+lemma isOpenEmbedding_units_val : IsOpenEmbedding (Units.val : Γ₀ˣ → Γ₀) where
+  eq_induced := by
+    simp [← isInducing_iff, isInducing_iff_nhds, ← Set.image_singleton,
+      Units.val_injective.preimage_image]
+  injective := Units.val_injective
+  isOpen_range := by simp [isOpen_iff]
```
Comment (kckennylau) [inline Mathlib/Topology/Algebra/WithZeroTopology.lean:202]:
```suggestion
theorem isInducing_unitsVal : IsInducing (Units.val : Γ₀ˣ → Γ₀) :=
  by simp [isInducing_iff_nhds, ← image_singleton, Units.val_injective.preimage_image]

lemma isOpenEmbedding_units_val : IsOpenEmbedding (Units.val : Γ₀ˣ → Γ₀) where
  eq_induced := isInducing_unitsVal.1
  injective := Units.val_injective
  isOpen_range := by simp [isOpen_iff]
```

File: Mathlib/Topology/Algebra/WithZeroTopology.lean [hunk 8]
```diff
@@ -183,4 +187,145 @@ scoped instance (priority := 100) : HasContinuousInv₀ Γ₀ :=
...
+      simp only [mem_Iic, Finset.singleton_union, Finset.mem_insert, Finset.mem_image,
+        Finset.mem_attach, true_and, Subtype.exists, Finset.mem_Icc, ← Units.val_le_val,
+        Units.val_mk0, Units.val_one, iUnion_iUnion_eq_or_left, iUnion_exists, biUnion_and',
+        iUnion_iUnion_eq', mem_union, mem_iUnion]
+      intro hzx
+      -- either we are in `Iio y` or we are in `{y} ∪ ⋯ ∪ {1}`
+      rcases lt_or_ge z y with hzy | hzy
+      · exact Or.inl (hy (by simp [hzy]))
+      · refine Or.inr ⟨Units.mk0 z (ne_of_gt (hzy.trans_lt' (zero_lt_iff.mpr hy'))), ?_⟩
+        simp [hzy, hzx, hi, hg']
```
Comment (kckennylau) [inline Mathlib/Topology/Algebra/WithZeroTopology.lean]:
```suggestion
lemma locallyCompactSpace_of_compact_Iio (h : IsCompact (Iio (1 : Γ₀))) :
    LocallyCompactSpace Γ₀ := by
  have key (x : Γ₀) : (𝓝 x).HasBasis (fun r : Γ₀ ↦ x = 0 → r ≠ 0)
      fun r ↦ if x = 0 then Iio r else {x} := by
    split_ifs with h
    · simpa [h] using hasBasis_nhds_zero
    · simpa [h] using (Filter.hasBasis_pure x).to_hasBasis (by simp) (by simp)
  refine LocallyCompactSpace.of_hasBasis key fun r i hr ↦ ?_
  split_ifs with hr0
  · convert h.image (continuous_mul_left i)
    rw [image_mul_left_Iio (zero_lt_iff.mpr <| hr hr0), mul_one]
  · exact isCompact_singleton

theorem compact_Iio_of_locallyCompactSpace [LocallyCompactSpace Γ₀] (r : Γ₀) :
    IsCompact (Iio r) := by
  obtain rfl | hr0 := eq_or_ne r 0
  · simp [← bot_eq_zero'']
  obtain ⟨s, hs0, _, hcs⟩ := local_compact_nhds <| Iio_mem_nhds_zero (Γ₀ := Γ₀) one_ne_zero
  obtain ⟨w, hw0, hws⟩ := hasBasis_nhds_zero.mem_iff.mp hs0
  convert (hcs.of_isClosed_subset (by simp_all [isClosed_iff, zero_lt_iff]) hws).image
    (continuous_mul_left (r / w))
  rw [image_mul_left_Iio (by simp_all [zero_lt_iff]), div_mul_cancel₀ _ hw0]

theorem compact_Iic_of_locallyCompactSpace [LocallyCompactSpace Γ₀] (r : Γ₀) :
    IsCompact (Iic r) :=
  Set.Iio_insert (a := r) ▸ (compact_Iio_of_locallyCompactSpace r).insert _

theorem compact_Icc_of_locallyCompactSpace [LocallyCompactSpace Γ₀] (x y : Γ₀) :
    IsCompact (Icc x y) :=
  (compact_Iic_of_locallyCompactSpace y).of_isClosed_subset isClosed_Icc Icc_subset_Iic_self

lemma locallyCompactSpace_iff_locallyFiniteOrder_units :
    LocallyCompactSpace Γ₀ ↔ Nonempty (LocallyFiniteOrder Γ₀ˣ) := by
  -- `[x, y]` is compact, but `Γ₀ˣ` is discrete, so `[x, y]` is finite.
  constructor
  · intro h
    refine ⟨LocallyFiniteOrder.ofFiniteIcc fun x y ↦ IsCompact.finite_of_discrete <|
      isInducing_unitsVal.isCompact_iff.mpr ?_⟩
    convert compact_Icc_of_locallyCompactSpace x.val y.val
    exact Set.ext fun z ↦ ⟨fun ⟨z', h1, h2⟩ ↦ h2 ▸ h1,
      fun h ↦ ⟨.mk0 z <| ne_of_gt <| x.zero_lt.trans_le h.1, h, rfl⟩⟩
  · rintro ⟨_⟩
    -- it suffices to show that `[0, 1)` is compact
    refine locallyCompactSpace_of_compact_Iio ?_
    -- for that, it suffices to show that the cofinite filter on `{ γ : Γ₀ˣ | γ < 1 }` tends to 0
    let c : Iio (1 : Γ₀ˣ) → Γ₀ := (·.1.1)
    have : Tendsto c cofinite (𝓝 0) := fun s hs ↦ by
      obtain ⟨r, hr0, hrs⟩ := hasBasis_nhds_zero.mem_iff.mp hs
      refine .of_finite_image ((finite_Ico (.mk0 r hr0) 1).subset ?_) Subtype.val_injective.injOn
      exact fun y ⟨x, hx, hxy⟩ ↦ hxy ▸ ⟨le_of_not_gt fun hxr ↦ hx <| hrs hxr, x.2⟩
    convert this.isCompact_insert_range_of_cofinite
    exact Set.ext fun x ↦ ⟨fun hx ↦ or_iff_not_imp_left.mpr fun hx0 ↦ ⟨⟨.mk0 x hx0, hx⟩, rfl⟩,
      Or.rec (· ▸ zero_lt_one) fun ⟨y, hxy⟩ ↦ hxy ▸ y.2⟩
```

**Review by kckennylau — CHANGES_REQUESTED** [review]
Golfed by using a lot of API

**Review by kckennylau — APPROVED** [review]

File: Mathlib/Topology/Algebra/WithZeroTopology.lean [hunk 9]
```diff
@@ -183,4 +187,72 @@ scoped instance (priority := 100) : ContinuousInv₀ Γ₀ :=
...
+instance : DiscreteTopology { g : Γ₀ // g ≠ 0 } := by
+  simpa [discreteTopology_iff_singleton_mem_nhds, nhds_induced] using by aesop
+
+instance : DiscreteTopology Γ₀ˣ :=
+  unitsHomeomorphNeZero.symm.discreteTopology
+
+theorem isInducing_unitsVal : IsInducing (Units.val : Γ₀ˣ → Γ₀) :=
+  by simp [isInducing_iff_nhds, ← image_singleton, Units.val_injective.preimage_image]
+
+lemma isOpenEmbedding_units_val : IsOpenEmbedding (Units.val : Γ₀ˣ → Γ₀) where
```
Comment (erdOne) [inline Mathlib/Topology/Algebra/WithZeroTopology.lean:199]: Should be `unitsVal`

File: Mathlib/Topology/Compactness/Compact.lean [hunk 10]
```diff
@@ -798,6 +798,10 @@ instance : NoncompactSpace ℤ :=
 theorem finite_of_compact_of_discrete [CompactSpace X] [DiscreteTopology X] : Finite X :=
   Finite.of_finite_univ <| isCompact_univ.finite_of_discrete
 
+instance (priority := 100) DiscreteTopology.instLocallyCompactSpace [DiscreteTopology X] :
```
Comment (erdOne) [inline Mathlib/Topology/Compactness/Compact.lean:801]: Should be `.to_locallyCompactSpace`
